US04476305
In a manner similar to that described in Example 13, a solution of α-vinyl-β-piperidylacrolein is prepared from 12.94 g (0.104 mole) of 5-formyl-α-pyrone and 8.84 g or 10.26 ml (0.104 mole) of piperidine in 84 ml of acetonitrile. In a separate reaction vessel, 18.31 g (0.104 mole) of sodium methylate in 70 ml of methanol are added to 19.46 g (0.104 mole) of 4,6-dimethylpyrimidylamidine hydrochloride in order to set free the corresponding base. The acetonitrile solution of α-vinyl-β-piperidylacrolein is then mixed with the methanolic suspension of the 4,6-dimethyl-2-pyrimidine-amidine base and the reaction mixture is refluxed for 3 hours, while adding dropwise 6.24 g, i.e. 5.88 ml (0.104 mole), of glacial acetic acid. The suspension is filtered with suction and the filtrate is washed with 20 ml of methanol. The filtrate is evaporated to dryness and the residue is chromatographed over a column of silica gel (1000 g of SiO2 ) with chloroform/methanol in the volume ratio 19:1 as eluant. The product (14.1 g=63.95% of theory) is stirred in diethyl ether, filtered with suction and dried at 80° C./100 bar, affording 13.42 g (60.86% of theory) of 4,6-dimethyl-2-pyrimidyl-5-vinylpyrimidine with a melting point of 230°-232° C. The product is readily sublimable at 160° C./2×10-3 bar. The melting point is not raised thereby.

reactant | piperidine | 0.104 mole, 10.26 ml | N1CCCCC1 | C5H11N
reactant | sodium methylate | 0.104 mole, 18.31 g | C[O-].[Na+]
reactant | 4,6-dimethyl-2-pyrimidine-amidine | CC1=NC(=NC(=C1)C)C(=N)N | C7H10N4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 84 ml | C(C)#N | C2H3N
solvent | methanol | 70 ml | CO | CH4O
product | 4,6-dimethyl-2-pyrimidyl-5-vinylpyrimidine | 13.42 g, 60.86% | CC1=NC(=NC(=C1C=C)C)C1=NC=CC=N1 | C12H12N4
